US04524212
(i) 1-[(5S)-5-(Benzyloxy)-1,4-dioxo-6-phenylhexyl]-L-proline
A mixture of 1-[(5S)-5-(benzoyloxy)-1,4-dioxo-6-phenylhexyl]-L-proline (250 mg., 0.5 mmole), 10% palladium on carbon catalyst (50 mg.), and ethyl acetate (10 ml.) is stirred under hydrogen gas for 7.5 hours. The solution is filtered (millipore), and the solvent removed at reducted pressure. Ether is added to the residue and crystals form. The solution is filtered to give the desired product as a white hygroscopic solid which is dried under vacuum over P2O5 to give 150 mg. of 1-[(5S)-5-(benzoyloxy)-1,4-dioxo-6-phenylhexyl]-L-proline; Rf =0.40 [silica gel, ethyl acetate:pyridine:acetic acid:water (100:20:6:11)]; m.p. 114°-115°;

reactant | 1-[(5S)-5-(benzoyloxy)-1,4-dioxo-6-phenylhexyl]-L-proline | 0.5 mmole, 250 mg | C(C1=CC=CC=C1)(=O)O[C@H](C(CCC(=O)N1[C@H](C(=O)O)CCC1)=O)CC1=CC=CC=C1 | C24H25NO6
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 1-[(5S)-5-(Benzyloxy)-1,4-dioxo-6-phenylhexyl]-L-proline | C(C1=CC=CC=C1)O[C@H](C(CCC(=O)N1[C@H](C(=O)O)CCC1)=O)CC1=CC=CC=C1 | C24H27NO5
